US06458798B1
A mixture of ethyl 2-acetylhexanoate (5.59 g, 30 mmol), guanidine carbonate (6.49 g, 30 mmol) and ethanol (20 ml) was refluxed for 11 hours and then ice-cooled. The precipitated crystals were filtered, washed with ethanol and dried in vacuo to give 2-amino-5-butyl-6-methylpyrimidine-4-ol (2.59 g, 47%).

reactant | ethyl 2-acetylhexanoate | 30 mmol, 5.59 g | C(C)(=O)C(C(=O)OCC)CCCC | C10H18O3
reactant | guanidine carbonate | 30 mmol, 6.49 g | C(O)(O)=O.NC(=N)N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-amino-5-butyl-6-methylpyrimidine-4-ol | 2.59 g, 47% | NC1=NC(=C(C(=N1)O)CCCC)C | C9H15N3O
